US07285558B2
(a) tert-butyl 4-[2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-methyl-1,3-thiazol-2-ylcarbamate
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 1-benzothiophene-3-carbaldehyde, followed by tert-butyl 4-formyl-5-methyl-1,3-thiazol-2-ylcarbamate.

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 1-benzothiophene-3-carbaldehyde | S1C=C(C2=C1C=CC=C2)C=O | C9H6OS
reactant | tert-butyl 4-formyl-5-methyl-1,3-thiazol-2-ylcarbamate | C(=O)C=1N=C(SC1C)NC(OC(C)(C)C)=O | C10H14N2O3S
product | tert-butyl 4-[2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-methyl-1,3-thiazol-2-ylcarbamate | S1C=C(C2=C1C=CC=C2)CN2N=C1N(C(N(C(C1=C2C=2N=C(SC2C)NC(OC(C)(C)C)=O)=O)C)=O)CC(C)C | C28H32N6O4S2
